US04864021
A 16.5 g quantity of N,O-bis(trimethylsilyl) acetamide was added to a suspension of 5.00 g of 2'-deoxy-5-fluorouridine in 50 ml of dry dichloromethane at room temperature with stirring, and the mixture was stirred for four hours. Then a solution of 4.00 g of 2-acetoxytetrahydrofuran and 1.17 ml of stannic chloride in 10 ml of dry dichloromethane was added and the mixture was stirred for 1.5 hours. Then 8.0 ml of triethylamine was added to neutralize the mixture and the mixture was washed with water. The dichloromethane layer was concentrated and the residue was dissolved in 100 ml of methanol. A 3 ml quantity of acetic acid was added thereto and the mixture was left to stand at 40° C. for 3 hours. The solvent was distilled off and the residue was applied to a silica gel column to conduct gradient elution using chloroform and methanol (up to 4%)-chloroform mixtures, giving 5.25 g of 2'-deoxy-5-fluoro-3-(2-tetrahydrofuranyl)uridine as an oil in a yield of 81.7%.

reactant | N,O-bis(trimethylsilyl) acetamide | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 2'-deoxy-5-fluorouridine | 5.00 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | 2-acetoxytetrahydrofuran | 4.00 g | C(C)(=O)OC1OCCC1 | C6H10O3
reactant | triethylamine | 8.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2'-deoxy-5-fluoro-3-(2-tetrahydrofuranyl)uridine | 5.25 g, yield of 81.7% | FC=1C(N(C(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)C1OCCC1)=O | C13H17FN2O6
